US07629358B2
Preparation 81: [2-(4-Chloro-phenyl)-ethyl]-ethyl-amine hydrochloride
A mixture of 2-(4-chloro-phenyl)-N-ethyl-acetamide (preparation 80), (437 mg, 2.22 mmol) and borane tetrahydrofuran complex (1M, 8.88 mL, 8.88 mmol) in tetrahydrofuran was heated under reflux for 18 hours. The cooled reaction mixture was then diluted with methanol (5 mL) and 12M hydrochloric acid (2 mL) and the re-heated to reflux for a further hour. The mixture was cooled to room temperature and concentrated in vacuo. Trituration of the residue with ethyl acetate afforded the title compound as a colourless solid in 99% yield, 403 mg.

reactant | 2-(4-chloro-phenyl)-N-ethyl-acetamide | 2.22 mmol, 437 mg | ClC1=CC=C(C=C1)CC(=O)NCC | C10H12ClNO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | methanol | 5 mL | CO | CH4O
solvent | hydrochloric acid | 12M, 2 mL | Cl | ClH
product | [2-(4-Chloro-phenyl)-ethyl]-ethyl-amine hydrochloride | 99% yield | Cl.ClC1=CC=C(C=C1)CCNCC | InChI=1S/C10H14ClN.ClH/c1-2-12-8-7-9-3-5-10(11)6-4-9;/h3-6,12H,2,7-8H2,1H3;1H
